US09226916B2
b) (3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidine-3-carboxylic acid
A mixture of 19.5 g (56 mmol) (3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidine-3-carboxylic acid methyl ester and 14.1 g (337 mmol) LiOH.H2O in water (100 mL) and methanol (10 mL) was heated to 80° C. for 45 min. The organic solvents were removed under vacuum and the aqueous phase acidified with 2N HCl tp pH=1-2. The precipitate was filtered off, washed with acetonitrile and dried to yield 15.1 g (73%) of the title compound as off-white solid. MS m/e: 334.1 [M+H]+.

reactant | (3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidine-3-carboxylic acid methyl ester | 56 mmol, 19.5 g | COC(=O)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)F)CC1=CC=CC=C1 | C19H19ClFNO2
reactant | LiOH.H2O | 337 mmol, 14.1 g | O[Li].O
solvent | water | 100 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | (3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidine-3-carboxylic acid | 15.1 g, 73% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC(=C(C=C1)Cl)F)C(=O)O | C18H17ClFNO2
